US08535927B1
Selective growth of B. subtilis (ΔaprE, ΔnprE, oppA, ΔspoIIE, degUHy32, ΔamyE::(xyIR,pxyIA-comK) transformants harboring the p2JM103-ASP vector or one of the pHPLT-ASP vectors was performed in shake flasks containing 25 ml Synthetic Maxatase Medium (SMM), with 0.97 g/l CaCl2.6H2O instead of 0.5 g/l CaCl2 (See, U.S. Pat. No. 5,324,653, herein incorporated by reference) with either 25 mg/L chloramphenicol or 20 mg/L neomycin. This growth resulted in the production of secreted ASP protease with proteolytic activity. However. Gel analysis was performed using NuPage Novex 10% Bis-Tris gels (Invitrogen, Cat. No. NP0301 BOX). To prepare samples for analysis, 2 volumes of supernatant were mixed with 1 volume 1M HCl, 1 volume 4xLDS sample buffer (Invitrogen, Cat. No. NP0007), and 1% PMSF (20 mg/ml) and subsequently heated for 10 minutes at 70° C. Then, 25 μL of each sample was loaded onto the gel, together with 10 μL of SeeBlue plus 2 pre-stained protein standards (Invitrogen, Cat. No. LC5925). The results' clearly demonstrated that all asp cloning strategies described in this Example yield suffident amounts of active Asp produced by B. subtilis.

reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
reactant | chloramphenicol | C1=CC(=CC=C1[C@H]([C@@H](CO)NC(=O)C(Cl)Cl)O)[N+](=O)[O-] | C11H12Cl2N2O5
reactant | neomycin | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)N)O[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O[C@@H]4[C@@H]([C@H]([C@@H]([C@@H](O4)CN)O)O)N)O)O)N | C23H46N6O13
reactant | Novex | C1=CC(=C(C=C1Cl)SC2=C(C=CC(=C2)Cl)O)O | C12H8Cl2O2S
reactant | HCl | 1M | Cl | ClH
reactant | PMSF | C1=CC=C(C=C1)CS(=O)(=O)F | C7H7FO2S
product | Asp | N[C@@H](CC(O)=O)C(=O)O | C4H7NO4
